US07091228B2
To a solution of ethyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2-(2-methoxyethyl)-4-oxobutanoate (75 mg, 0.21 mmol) in butanol (4 mL), 2-chloro-benzothiazole (43 mg, 0.25 mmol) was added and the reaction mixture was heated at 90° C. overnight. The solvent was removed by rotary evaporation, the residue was redissolved in DMF (1 mL), a solution of 1 N aqueous NaOH (0.63 mL, 0.63 mmol) was added, and the mixture was stirred at rt overnight. A solution of 1 N aqueous HCl (0.3 mL, 0.3 mmol) and methanol (5 mL) were added to the reaction mixture, and the crude product was purified by preparative reverse-phase HPLC (water/acetonitrile gradient, containing 0.1% TFA) to afford 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2-(2-methoxyethyl)-4-oxobutanoic acid as a white solid (30 mg, 31%). 1H NMR (300 MHz, DMSO-d6) δ 8.05 (d, 2 H), 7.95 (d, 2 H), 7.70 (m, 5 H), 7.60 (d, 1 H), 7.30 (t, 1 H), 7.15 (t, 2 H), 3.35 (m, 2 H), 3.25 (s, 3 H), 3.20 (m, 2 H), 2.90 (m, 1 H), 1.95–1.75 (m, 2 H); LC-MS ret. time 3.29 min (method 2), m/z 461.15 (MH+).

reactant | ethyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2-(2-methoxyethyl)-4-oxobutanoate | 0.21 mmol, 75 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OCC)CCOC)=O | C21H25NO4
reactant | 2-chloro-benzothiazole | 0.25 mmol, 43 mg | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | NaOH | 0.63 mmol, 1 N, 0.63 mL | [OH-].[Na+]
reactant | HCl | 0.3 mmol, 1 N, 0.3 mL | Cl | ClH
solvent | butanol | 4 mL | C(CCC)O | C4H10O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[4′-(1,3-benzothiazol-2-ylamino)-1,1′-biphenyl-4-yl]-2-(2-methoxyethyl)-4-oxobutanoic acid | 30 mg, 31% | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(CC(C(=O)O)CCOC)=O | C26H24N2O4S
